US07994164B2
(E)-2-((3,7-difluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
To a mixture of (E)-11-(bromomethylene)-3,7-difluoro-6,11-dihydrodibenzo[b,e]oxepine (46.4 mmol, 15.0 g) and bis(pinacolato)diboron (50.3 mmol, 15.3 g) in 1,4-dioxane (150 mL) add potassium acetate (74.3 mmol, 7.29 g), tricyclohexyl phosphine (6.03 mmol, 1.69 g) and Pd2(dba)3 (2.32 mmol, 2.13 g). Flush by bubbling with nitrogen, then stir with heating at 65° C. overnight. After cooling to room temperature, filter the mixture through a pad of diatomaceous earth, wash the pad with ethyl acetate, and remove the solvent to obtain a brown oil. Dilute the oil with methanol (180 mL) and swirl the resulting mixture on a rotory evaporator without vacuum for 3 h causing a white precipitate to form. Collect the precipitate by vacuum filtration to obtain the title compound (10.8 g, 63%) as a white solid. 1H NMR (300 MHz, CDCl3) δ 7.34 (dd, J=8.8, 6.7 Hz, 1H), 7.24-7.18 (m, 1H), 7.08-7.01 (m, 2H), 6.65-6.59 (m, 1H), 6.50 (dd, J=10.3, 2.6 Hz, 1H), 5.99 (s, 1H), 5.31 (d, J=0.9 Hz, 2H), 1.16 (s, 12H).

reactant | (E)-11-(bromomethylene)-3,7-difluoro-6,11-dihydrodibenzo[b,e]oxepine | 46.4 mmol, 15.0 g | Br\C=C/1\C2=C(OCC3=C1C=CC=C3F)C=C(C=C2)F | C15H9BrF2O
reactant | bis(pinacolato)diboron | 50.3 mmol, 15.3 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 74.3 mmol, 7.29 g | C(C)(=O)[O-].[K+]
reactant | tricyclohexyl phosphine | 6.03 mmol, 1.69 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 180 mL | CO | CH4O
catalyst | Pd2(dba)3 | 2.32 mmol, 2.13 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (E)-2-((3,7-difluorodibenzo[b,e]oxepin-11(6H)-ylidene)methyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 10.8 g, 63% | FC=1C=CC\2=C(OCC3=C(/C2=C\B2OC(C(O2)(C)C)(C)C)C=CC=C3F)C1 | C21H21BF2O3
